US08198450B2
Preparation of (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hippurate
A suspension of 1.95 g (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one base (4.968 mmoles) in 28.5 ml methanol is heated to 45° C. 0.89 g hippuric acid (4.968 mmoles) are added in portions over 5 minutes at 45-50° C. The resulting almost complete solution, is further stirred at 50° C. Spontaneous crystallization occurs after ca 5 minutes. 15 ml methanol are added to the very thick mixture. The suspension is allowed to cool and stirred for 4 hours at room temperature. The suspension is filtered and the salt is washed with 10 ml methanol. The crystals are dried first for 20 hours at 70° C. and ca. 10 mbar and further for 4 hours at 60° C. and ca. 1 mbar. Yield: 2.15 g white powder (75.7%)

reactant | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one | 4.968 mmoles, 1.95 g | C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | C24H28N2O3
reactant | hippuric acid | 4.968 mmoles, 0.89 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
solvent | methanol | 28.5 ml | CO | CH4O
product | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hippurate | C(CNC(=O)C1=CC=CC=C1)(=O)O.C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C24H28N2O3.C9H9NO3/c1-3-14-9-16-11-18(12-17(16)10-15(14)4-2)25-13-22(28)19-5-7-21(27)24-20(19)6-8-23(29)26-24;11-8(12)6-10-9(13)7-4-2-1-3-5-7/h5-10,18,22,25,27-28H,3-4,11-13H2,1-2H3,(H,26,29);1-5H,6H2,(H,10,13)(H,11,12)/t22-;/m0./s1
